US06528677B1
3.5 g of 4,4,7,7-tetramethyl-2-pentyl-2,3,4,5,6,7-hexahydro-1H-indene-2-carboxylic acid were dissolved in 35 ml of THF and treated dropwise at room temperature with a solution of 1.4 ml of borane methylsulfide in 10 ml of THF. The reaction mixture was stirred for 2 hours, then treated dropwise with 13 ml of methanol and evaporated. The yellow, oily residue was purified with flash chromatography (silica gel, hexane/ethyl acetate=5:1) to yield 2.9 g of (4,4,7,7-tetramethyl-2-pentyl-2,3,4,5,6,7-hexahydro-1H-inden-2-yl)-methanol as colorless oil.

reactant | 4,4,7,7-tetramethyl-2-pentyl-2,3,4,5,6,7-hexahydro-1H-indene-2-carboxylic acid | 3.5 g | CC1(C=2CC(CC2C(CC1)(C)C)(C(=O)O)CCCCC)C | C19H32O2
reactant | borane methylsulfide | 1.4 ml | CSC.B
reactant | methanol | 13 ml | CO | CH4O
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (4,4,7,7-tetramethyl-2-pentyl-2,3,4,5,6,7-hexahydro-1H-inden-2-yl)-methanol | 2.9 g | CC1(C=2CC(CC2C(CC1)(C)C)(CCCCC)CO)C | C19H34O
